US04304770
To a solution of 7-[2-(2-propynyl)oxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.0 g) in methanol (14 ml) was added conc.hydrochloric acid (0.3 g) and the mixture was stirred for 3.5 hours at ambient temperature. The solvent was distilled off under reduced pressure and the residue was dissolved in a saturated aqueous solution of sodium bicarbonate. The aqueous solution was washed with ethyl acetate and adjusted to pH 2.8 with conc.hydrochloric acid. Precipitates were collected by filtration, washed with water and dried to give 7-[2-(2-propynyl)oxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.43 g).

reactant | 7-[2-(2-propynyl)oxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.0 g | C(C#C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C21H19N9O6S3
reactant | hydrochloric acid | 0.3 g | Cl | ClH
solvent | methanol | 14 ml | CO | CH4O
product | 7-[2-(2-propynyl)oxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.43 g | C(C#C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)N | C20H19N9O5S3
